US07612075B2
(R)-(2-Benzyloxycarbonylamino-3-methoxy-propylamino)-acetic acid methyl ester (3.9 g, 12.58 mmol) is dissolved in MeOH (˜200 mL) and warmed in the presence of decolorizing charcoal for 1 h. The mixture is filtered through celite and the clear filtrate is concentrated. The residue is redissolved in MeOH (160 mL) and placed in a Parr bottle. Palladium-on-carbon (10%, 800 mg) is added and the mixture is hydrogenated for 5 h at 45 PSI. An additional portion of Pd-on-C (250 mg) is added and the mixture left is reacted for 16 h at 45 PSI. The mixture is filtered through celite and concentrated to afford 1.5 g (83%) of (R)-6-methoxymethyl-piperazin-2-one as a yellow solid which is used without further purification. 1H NMR (300 MHz, CDCl3) δ1,77 (br s, 1H), 2.70 (dd, J=13.1, 7.2 Hz, 1H), 3.07 (dd, J=13.1, 4.5 Hz, 1H), 3.26 (dd, J=9.1, 7.7 Hz, 1H), 3.33 (s, 3H), 3.37-3.45 (m, 3H), 3.61 (m, 1H), 6.51 (br s, 1H) ppm.

reactant | (R)-(2-Benzyloxycarbonylamino-3-methoxy-propylamino)-acetic acid methyl ester | 12.58 mmol, 3.9 g | COC(CNC[C@H](COC)NC(=O)OCC1=CC=CC=C1)=O | C15H22N2O5
reactant | charcoal | C | CH4
solvent | MeOH | ˜200 mL | CO | CH4O
product | (R)-6-methoxymethyl-piperazin-2-one | 1.5 g, 83% | COC[C@H]1CNCC(N1)=O | C6H12N2O2
